US04174317
N,N-Dimethyl-N'-[(3,4,5-trimethoxyphenyl)methylene]-1,3-propanediamine
Interaction of 21 g of 3,4,5-trimethoxybenzaldehyde with 11 g of 3-dimethylaminopropylamine in 80 ml. of benzene following the procedure described in Example 1 yields 28.2 g of product as an oil, boiling point 162°-167° C. at 0.4-0.5 mm. of Hg.

reactant | 3,4,5-trimethoxybenzaldehyde | 21 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 3-dimethylaminopropylamine | 11 g | CN(CCCN)C | C5H14N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-Dimethyl-N'-[(3,4,5-trimethoxyphenyl)methylene]-1,3-propanediamine | 28.2 g | CN(CCCN=CC1=CC(=C(C(=C1)OC)OC)OC)C | C15H24N2O3
